US09403845B2
Preparation of 6-bromo-4-methylene-2,3-dihydropyrano[3,2-b]pyridine
To a stirred mixture of PPh3(67.6 g, 0.258 mol), KOAc (42 g, 0.43 mol), Pd(OAc)2 (1.94 g, 8.6 mmol) and Et4NCl (28.6 g, 0.172 mmol), was added 2,6-dibromo-3-(but-3-enyloxy) pyridine (26.4 g, 0.086 mol) in anhydrous DMF (300 ml). The mixture was heated at 105° C. overnight. After cooling to rt, the mixture was dissolved in EtOAc, washed with water and brine, dried over Na2SO4, and concentrated in vacuo. The crude product was purified by silica gel chromatography (petroleum) to afford the title compound as an oil.

reactant | PPh3 | 0.258 mol, 67.6 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | KOAc | 0.43 mol, 42 g | CC(=O)[O-].[K+]
reactant | 2,6-dibromo-3-(but-3-enyloxy) pyridine | 0.086 mol, 26.4 g | BrC1=NC(=CC=C1OCCC=C)Br | C9H9Br2NO
catalyst | Et4NCl | 0.172 mmol, 28.6 g | [N+](CC)(CC)(CC)CC.[Cl-]
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 8.6 mmol, 1.94 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6-bromo-4-methylene-2,3-dihydropyrano[3,2-b]pyridine | BrC1=CC=C2C(=N1)C(CCO2)=C | C9H8BrNO
